US08431575B2
To a stirred solution of 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (51.59 mmol, 14 g) in methanol (300 mL) was added sodium borohydride (12 g) in 12 portions over 30 min. The reaction mixture was stirred for additional 30 min, and the volatiles were removed under reduced pressure. To the residue was added saturated ammonium chloride (300 mL). The mixture was extracted with ethyl acetate (300 mL), and the organic layer was dried and concentrated under reduced pressure. The residue was purified on a flash silica gel column eluting with ethyl acetate to provide 4-hydroxy-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 51.59 mmol, 14 g | C(C)OC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C13H21NO5
reactant | sodium borohydride | 12 g | [BH4-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | 4-hydroxy-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)O)CO | C11H21NO4
